Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14].[H:1][O:2],6.12406040665
[H:14].[O:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12][H:13]>>[O:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-5.23021971585
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])=[C:7][H:8]>>[C:1]#[C:2][C:3]([H:4])[C:5]#[C:7][H:8].[H:6],2.08931085449
[C:4][C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3][O:9][C:10]([H:11])[H:12]>>[H:1][O:2]/[C:3](=[C:4]/[C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])[H:12],-4.36686107362
[H:1][O:2]/[C:3]([O:4][C:5]([H:6])[H:7])=[C:8](\[H:9])[C:10][H:11]>>[H:1][O:2][C:3]1([O:4][C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]1[H:11],-1.18917467235
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([O:12])([H:13])[H:14]>>[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([O:12])([H:13])[H:14].[O:1],3.97663799
[C:6][C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[H:10],-0.925088014561
[H:6].[O:1][O:2][C:3]/[C:4]([H:5])=[C:7](\[H:8])[C:9][H:10]>>[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10],-2.0396569075
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[O:14][H:15],1.91787548941
[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])[H:15]>>[H:12].[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11])[C:13]([H:14])[H:15],4.60685893576
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]#[C:10][C:11]([H:12])([H:13])[H:14].[H:9],1.97844719306
[H:1][C:2]#[C:3][C:4]#[C:5][O:6][C:7]([H:8])([H:9])[H:10]>>[H:10].[H:1][C:2]#[C:3][C:4]#[C:5][O:6][C:7]([H:8])[H:9],4.498755624669999
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:14](=[C:13]=[C:11]([H:12])[H:16])[H:15]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C@@:11]1([H:12])[C:13][C:14]1([H:15])[H:16],2.87491624
[C:1][O:2][C:3]#[C:4][C:5](=[O:6])[H:7]>>[C:1]=[O:2].[C:3]#[C:4][C:5](=[O:6])[H:7],-0.901452208378
[C:1]#[C:2][C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1][C:2]#[C:3][C:4]([H:5])=[C:6]([H:7])[H:8].[C:9]([H:10])([H:11])[H:12],3.64906998091
[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7][O:9][H:10].[H:8]>>[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])[O:9][H:10],-2.86987690246
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6](=[O:7])[C:8]([H:9])([H:10])[H:11]>>[C:3]([H:4])[H:5].[O:1]=[C:2]=[C:6]([O:7])[C:8]([H:9])([H:10])[H:11],5.2140330033
[H:12].[H:1][O:2][C:3]#[C:4][C@:5]([H:6])([O:7][H:8])[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]#[C:4][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-4.603810909630001
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8][O:9][H:10]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8].[O:9][H:10],6.5038225907500005
[O:1]=[C:2]([H:3])[C:4]#[C:5][O:6][C:7]([H:8])[H:9]>>[H:3].[O:1]=[C:2]=[C:4][C:5][O:6][C:7]([H:8])[H:9],3.15416691016
[C:4]([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-5.77689650521
[C:1]#[C:2].[O:3]=[C:4][H:5]>>[C:1]#[C:2][O:3][C:4][H:5],-1.43589007267
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4][H:5],4.20157034444
[C:3]([O:4][C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]>>[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-6.87191597995
[H:6].[O:1][C:2]#[C:3][C:4][O:5]>>[O:1]=[C:2]=[C:3][C:4][O:5][H:6],-0.450587759798
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10],2.5672359249000003
[C:1]#[C:2][C:8]([H:9])([H:10])[H:11].[C:3]([O:4][H:5])[O:6][H:7]>>[C:1][C:2](=[C:3]([O:4][H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-1.9564072045
[H:1][O:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][O:3]/[C:4]([H:5])=[C:6]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:7],4.7637804408800015
[H:1][O:2][C:3](=[C:4])/[C:9](=[C:5](\[H:6])[O:7][H:8])[H:10]>>[H:1][O:2][C:3]1[C:4]2[C@@:5]([H:6])([O:7][H:8])[C@@:9]12[H:10],-0.8304653388709999
[H:1][C:2]=[C:3]([H:4])[O:6][C:7]([H:8])=[C:9][H:10].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9][H:10],-1.5491298913999998
[H:10].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7](=[C:8][H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-5.158892853809999
